US08980888B2
<Step 6> Synthesis of 2-(3-fluorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-amine hydrochloride
A 4 N hydrochloric acid-1,4-dioxane solution (5 ml) was added to the tert-butyl (2-(3-fluorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-yl)carbamate (116 mg) obtained in (Example 2.7) <Step 5>, and the obtained mixture was then stirred for 1 hour. Thereafter, the solvent was distilled away under reduced pressure, and the title compound (133 mg) was obtained in the form of a colorless solid.

reactant | hydrochloric acid 1,4-dioxane | 4 N, 5 ml | Cl.O1CCOCC1
reactant | tert-butyl (2-(3-fluorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-yl)carbamate | 116 mg | FC=1C=C(C=CC1)C=1N=C2N(CCC(C2)NC(OC(C)(C)C)=O)C1 | C18H22FN3O2
product | 2-(3-fluorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-amine hydrochloride | 133 mg | Cl.FC=1C=C(C=CC1)C=1N=C2N(CCC(C2)N)C1 | InChI=1S/C13H14FN3.ClH/c14-10-3-1-2-9(6-10)12-8-17-5-4-11(15)7-13(17)16-12;/h1-3,6,8,11H,4-5,7,15H2;1H
